US08710043B2
To a mixture of (S)-tert-butyl ((3-bromopyridin-2-yl)(4-(trifluoromethyl)-phenyl)methyl)carbamate (0.4 g, 0.93 mmol) in water (2 mL) and EtOH (8 mL) were added K3PO4 (0.3 g, 1.3 mmol), vinyl boronic acid (4 mL, 9.3 mmol) and A−taPhos)2PdCl2 (Guram, A. S. et al. Org. Lett. 2006, 8, 1787; 0.13 g, 0.01 mmol). The resulting mixture was stirred at 120° C. for 1 h. Reaction progress was monitored by TLC (20% EtOAc in petroleum ether). After completion of reaction, water (50 mL) was added to the reaction mixture, and the product was extracted with DCM (3×25 mL). The combined organic layers were separated, dried over anhydrous sodium sulfate, and purified by column chromatography using silica (100-200 mesh) and using 15-30% EtOAc in petroleum ether as an eluent. In this manner, (S)-tert-butyl ((4-(trifluoromethyl)phenyl)(3-vinylpyridin-2-yl)methyl)carbamate was obtained as an off-white solid. MS (ESI pos. ion) m/z: 378.9 (M+1).

reactant | (S)-tert-butyl ((3-bromopyridin-2-yl)(4-(trifluoromethyl)-phenyl)methyl)carbamate | 0.93 mmol, 0.4 g | BrC=1C(=NC=CC1)[C@H](C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C18H18BrF3N2O2
reactant | K3PO4 | 1.3 mmol, 0.3 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | vinyl boronic acid | 9.3 mmol, 4 mL | C(=C)B(O)O | C2H5BO2
reactant | A−taPhos | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C | C16H28NP
solvent | water | 2 mL | O | H2O
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | water | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl ((4-(trifluoromethyl)phenyl)(3-vinylpyridin-2-yl)methyl)carbamate | FC(C1=CC=C(C=C1)[C@@H](C1=NC=CC=C1C=C)NC(OC(C)(C)C)=O)(F)F | C20H21F3N2O2
